US05498695
A. PhCH2NHCOValAlaOCH3
CBZValAlaOCH3 (1.35 g, 4.00 mmole) was hydrogenated at 3 arm. over 10% Pd on carbon (150 mg) in CH3OH (40 mL) at room temperature. After 1 hour, the catalyst was removed by filtration through a nylon filter. The filtrate was evaporated in vacuo giving a white solid which was slurried in CHCl3 (40 mL) and treated with benzyl isocyanate (586 mg, 4.4 mmole). After 1 hour at room temperature, the reaction mixture was washed three times with 1N HCl, dried over MgSO4, filtered and concentrated in vacuo giving 791 mg (61%) of the desired product as a white powder. Recrystallization of a portion from ethyl acetate/CH3OH gave an analytical sample: mp 227°-228° C.; 1H NMR (DMSO-d6) δ 0.80 (d, J=6.8 Hz, 3H), 0.86 (d, J=6.7 Hz, 3H), 1.26 (d, J=7.3 Hz, 3H), 1.85-1.95 (m, 1H), 3.59 (s, 3H), 4.10 (dd, J=5.9, 9.2 Hz, 1H), 4.15-4.3 (m, 3H), 6.08 (d, J=9.3 Hz, 1H), 6.53 (t, J=6.0 Hz, 1H), 7.15-7.35 (m, 5H), 8.39 (d, J=6.7 Hz, 1H); MS (LSIMS) m/e 336 (100, M+ +1), 233 (62), 203 (76); [α]D20 +6.1° (c=1.0, DMF); Analysis calculated for C17H25N3O4 ; C, 60.88; H, 7.51; N, 12.53; found: C, 60.98; H, 7.30; N, 12.34.

reactant | CBZValAlaOCH3 | 4.00 mmole, 1.35 g | N([C@@H](C(C)C)C(=O)N[C@@H](C)C(=O)OC)C(=O)OCC1=CC=CC=C1 | C17H24N2O5
reactant | benzyl isocyanate | 4.4 mmole, 586 mg | C(C1=CC=CC=C1)N=C=O | C8H7NO
solvent | CH3OH | 40 mL | CO | CH4O
solvent | CHCl3 | 40 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | Pd on carbon | 150 mg | [Pd] | Pd
product | PhCH2NHCOValAlaOCH3 | 791 mg, 61% | C1(=CC=CC=C1)CNC(=O)N[C@@H](C(C)C)C(=O)N[C@@H](C)C(=O)OC | C17H25N3O4
